US09290500B2
To a solution of 2.50 M of n-butyllithium in hexane (49.9 mL, 125 mmol) in tetrahydrofuran (49.9 mL) cooled to −78° C. is added acetonitrile (6.52 mL, 125 mmol) drop-wise. The resulting cloudy mixture is stirred for 30 min. Ethyl α-napthoate (8.87 mL, 49.9 mmol) is added drop-wise and the reaction mixture is stirred at −78° C. for 2 hr. The reaction is warmed to room temperature, quenched with acetic acid (50 ml) and partitioned between ethyl acetate and water. The organic layer is dried over Na2SO4, filtered and concentrated in vacuo. The crude material is purified by column chromatography (eluent: 5-15% CH2Cl2/methanol) to provide 1-naphthoylacetonitrile (6.99 g, yield 72%). 1H NMR (400 MHz, CDCl3) δ 8.82 (d, J=8.7 Hz, 1H), 8.11 (d, J=8.3 Hz, 1H), 7.90 (t, J=8.1 Hz, 2H), 7.71-7.64 (m, 1H), 7.57 (dt, J=15.5, 7.2 Hz, 2H), 4.21 (s, 2H).

reactant | n-butyllithium | 2.50 M | C(CCC)[Li]
reactant | hexane | 125 mmol, 49.9 mL | CCCCCC | C6H14
reactant | acetonitrile | 125 mmol, 6.52 mL | C(C)#N | C2H3N
reactant | Ethyl α-napthoate | 49.9 mmol, 8.87 mL | C1(=CC=CC2=CC=CC=C12)C(=O)OCC | C13H12O2
solvent | tetrahydrofuran | 49.9 mL | O1CCCC1 | C4H8O
product | 1-naphthoylacetonitrile | 6.99 g, yield 72% | C1(=CC=CC2=CC=CC=C12)C(=O)CC#N | C13H9NO
